US04241079
Step C--3-Iminophenylmethyl-4-(3-carbomethoxy-S-methyl-isothioureido)benzophenone
To a solution of 3-imino(2,6-dichloro)phenylmethyl-4-(3-carbomethoxythioureido)benzophenone (2.43 g.; 0.005 mole) in dimethylformamide (100 ml.) is added water (5.0 ml.) and then sodium hydroxide (50% aqueous; 0.4 g.; 0.005 mole). The solution is stirred for 11/2 hours and then methyl iodide (0.71 g.; 0.005 mole) is added. The solution is stirred for one-half hour. The precipitate which forms is collected by filtration and dried to afford 1.3 g. of 3-iminophenylmethyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone, m.p. 63°-68° C. (dec.).

reactant | 3-imino(2,6-dichloro)phenylmethyl-4-(3-carbomethoxythioureido)benzophenone | 0.005 mole, 2.43 g | N=C1C(C(C(=O)C2=CC=CC=C2)=C(C(=C1NC(=S)NC(=O)OC)CC1=CC=CC=C1)Cl)Cl | C23H19Cl2N3O3S
reactant | sodium hydroxide | 0.005 mole, 0.4 g | [OH-].[Na+]
reactant | methyl iodide | 0.005 mole, 0.71 g | CI | CH3I
reactant | 3-iminophenylmethyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(SC)=NC(=O)OC)CC1=CC=CC=C1 | C24H23N3O3S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 5.0 ml | O | H2O
product | C--3-Iminophenylmethyl-4-(3-carbomethoxy-S-methyl-isothioureido)benzophenone | N=C1CC(=CC=C1)CC1(CC=CC=C1)C(C1=CC=C(C=C1)NC(SC)=NC(=O)OC)=O | C24H25N3O3S
